US06034275
A solution of 11.5 g of N-[4-[4-(4-bromo-benzoyl)-phenoxy]-but-2-enyl]-N-cyclopropyl-2,2,2-trifluoroacetamide in 150 ml of methanol and 50 ml of tetrahydrofuran is treated with 5 ml of 20% aqueous potassium hydroxide solution while cooling with ice. The mixture is brought to room temperature and stirred for one hour, concentrated under reduced pressure and the residue is treated with 100 ml of water. The phases are separated and the inorganic phase is extracted with methylene chloride. The organic extracts are washed with saturated sodium chloride solution, dried and evaporated. After purification of the residue over silica gel with ethyl acetate-hexane-triethylamine (50/49/1) there are obtained 7.0 g of (4-bromo-phenyl)-[4-(4-cyclopropylamino-but-2-enyloxy)-phenyl]-methanone, MS: m/e 386 (M+H+, 1Br),

reactant | N-[4-[4-(4-bromo-benzoyl)-phenoxy]-but-2-enyl]-N-cyclopropyl-2,2,2-trifluoroacetamide | 11.5 g | BrC1=CC=C(C(=O)C2=CC=C(OCC=CCN(C(C(F)(F)F)=O)C3CC3)C=C2)C=C1 | C22H19BrF3NO3
reactant | potassium hydroxide | 5 ml | [OH-].[K+]
solvent | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4-bromo-phenyl)-[4-(4-cyclopropylamino-but-2-enyloxy)-phenyl]-methanone | 7.0 g | BrC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCC=CCNC1CC1 | C20H20BrNO2
